US05843939
To an ice-cooled suspension of aluminum trichloride (0.400 g; 0.003 mole) in methylene chloride (15 mL) in a nitrogen stream a solution of 2-methoxy-3,3-dibromo-alpha-(1-methylethylidene)-4-oxo-1-azetidine acetic acid benzyl ester (0.447 g; 0.001 mole) and anisole (0.648 g; 0.65 mL, 0.006 mole) in methylene chloride (15 mL) was added and then it was stirred for half an hour at room temperature. Ethyl acetate (15 mL) and 0.1N hydrochloric acid (5 mL) were added to the reaction mixture and the layers were separated. The ethyl acetate layer was extracted with a 5% sodium hydrogen carbonate solution (2×20 mL) and the layers were separated. The aqueous layer was acidified with 0.1N hydrochloric acid to pH 1, then fresh ethyl acetate (20 mL) and sodium chloride were added and the layers were again separated. The ethyl acetate layer was washed with a saturated salt solution, dried and evaporated to a dry residue to obtain 3,3-dibromo-2-methoxy-alpha-(1-methylethylidene)-4-oxo-1-azetidine acetic acid, which was identical to the one disclosed under 2a.

reactant | aluminum trichloride | 0.003 mole, 0.400 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 2-methoxy-3,3-dibromo-alpha-(1-methylethylidene)-4-oxo-1-azetidine acetic acid benzyl ester | 0.001 mole, 0.447 g | C(C1=CC=CC=C1)OC(C(N1C(C(C1=O)(Br)Br)OC)=C(C)C)=O | C16H17Br2NO4
reactant | anisole | 0.006 mole, 0.65 mL, 0.648 g | C1(=CC=CC=C1)OC | C7H8O
reactant | hydrochloric acid | 0.1N, 5 mL | Cl | ClH
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 3,3-dibromo-2-methoxy-alpha-(1-methylethylidene)-4-oxo-1-azetidine acetic acid | BrC1(C(N(C1=O)C(C(=O)O)=C(C)C)OC)Br | C9H11Br2NO4
